US05688791
Synthesis of 1-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-3-(5-tetrazolyl)-1,4-dihydro-4-oxoquinoline
To 25 ml of xylene were added 0.5 g (0.0011 mole) of 3-cyano-1-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline obtained as described above, 0.21 g of (0.0033 mole) of sodium azide and 1.07 g (0.0033 mole) of tributyltin chloride, and the mixture was stirred under reflux by heating for 9 hours. After the mixture was cooled to room temperature, 7 ml of a 1N hydrochloric acid aqueous solution was added thereto, and the mixture was stirred. Then, crystals precipitated were collected by filtration, washed with ethanol and toluene, and applied to silica gel column chromatography (the eluent used was a mixture of chloroform:methanol=9:1) to obtain 0.37 g of the title compound as pale yellow powder.

reactant | 3-cyano-1-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline | 0.0011 mole, 0.5 g | C(#N)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CCN(CC1)C1=NC=CC=N1)OC(F)F)CC | C21H19F3N6O2
reactant | sodium azide | 0.0033 mole, 0.21 g | [N-]=[N+]=[N-].[Na+]
reactant | tributyltin chloride | 0.0033 mole, 1.07 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-ethyl-6-fluoro-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-3-(5-tetrazolyl)-1,4-dihydro-4-oxoquinoline | 0.37 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)OC(F)F)N1CCN(CC1)C1=NC=CC=N1)F)=O)C1=NN=NN1 | C21H20F3N9O2
